US09233098B2
4. Preparation of ethyl 2-[5-fluoro-1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate
Ethyl 2-(5-fluoro-1H-indazol-3-yl)acetate (0.48 g, 2.16 mmol) was dissolved in anhydrous tetrahydrofuran (30 mL). Cesium carbonate (2.11 g, 6.48 mmol) was added, and stirred at room temperature for half an hour. Then p-nitro benzyl bromide (466 mg, 2.16 mmol) was added. After reacted for 16 hours, the solid was filtered. The filtrate was concentrated, chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a yellow solid 295 mg, at a yield of 38.2%.

reactant | Ethyl 2-(5-fluoro-1H-indazol-3-yl)acetate | 2.16 mmol, 0.48 g | FC=1C=C2C(=NNC2=CC1)CC(=O)OCC | C11H11FN2O2
reactant | Cesium carbonate | 6.48 mmol, 2.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | p-nitro benzyl bromide | 2.16 mmol, 466 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | ethyl 2-[5-fluoro-1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate | 295 mg, yield of 38.2% | FC=1C=C2C(=NN(C2=CC1)CC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)OCC | C18H16FN3O4
